US07507826B2
(6-Bromo-pyridin-2-yl)-(4-chloro-benzyl)-amine (7):
A microwave vial was charged with 4-chloro benzylamine (700 mg; 5 mmol; 5 equivalents) and 2,6-dibromo pyridine (238 mg, 1 mmol). The reaction mixture was stirred in the microwave at 150° C. for three times ten minutes (200 W maximum). The reaction mixture was diluted with diethyl ether (50 ml), washed with 10% aqueous citric acid, saturated aqueous sodium bicarbonate and brine. The organic was dried over magnesium sulfate and, after filtration, concentrated in vacuo to afford an oil as the title compound (300 mg, 100% yield). LC/MS: 299 [M+H]

reactant | 4-chloro benzylamine | 5 mmol, 700 mg, 5 equivalents | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | 2,6-dibromo pyridine | 1 mmol, 238 mg | BrC1=NC(=CC=C1)Br | C5H3Br2N
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | (6-Bromo-pyridin-2-yl)-(4-chloro-benzyl)-amine | 300 mg, 100% yield | BrC1=CC=CC(=N1)NCC1=CC=C(C=C1)Cl | C12H10BrClN2
